US07071182B2
3-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine
A mixture of 3-bromo-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (0.90 g, 2.7 mmol), iron powder (1.5 g, 26 mmol), and ammonium chloride (73 mg, 1.3 mmol) in 80% ethanol was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was taken up and stirred in triethylamine/ethyl acetate (1/4, 20 mL) for about 15 minutes, filtered through a plug of silica gel, which was rinsed with triethylamine/ethyl acetate (1/4), and the filtrate concentrated under reduce pressure to provide the title compound (0.78 g, 95%). 1H NMR (300 MHz, DMSO-d6) ppm 1.64 (m, 4H), 2.46 (m, 4H), 2.79 (t, 2H, J=6.44), 4.23 (t, J=6.44, 2H), 5.56 (s, 2H), 6.49 (m, 1H), 6.58 (m, 1H), 7.16 (m, 1H); MS (DCI/NH3) m/z 309 [M+H]+.

reactant | 3-bromo-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 2.7 mmol, 0.90 g | BrC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CCN1CCCC1 | C13H15BrN4O2
reactant | ammonium chloride | 1.3 mmol, 73 mg | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 26 mmol, 1.5 g | [Fe] | Fe
product | 3-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | 0.78 g, 95% | BrC1=NN(C2=CC(=CC=C12)N)CCN1CCCC1 | C13H17BrN4
